US04421846
(1) Synthesis of 2,4-di-tert-amylphenylallylether
117.2 g of 2,4-di-t-amylphenol and 90.7 g of allylbromide was dissolved in 500 ml of acetone. Thereto was added 103.5 g of pottassium carbonate and refluxed in a water bath for 20 hours. Then reaction mixture was filtered under suction and filtration residue was rinsed with 100 ml of acetone, thereafter this was again mixed with the mother solution and then under reduced pressure acetone and excess allyl bromide was distilled out.

reactant | 2,4-di-t-amylphenol | 117.2 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | allylbromide | 90.7 g | C(C=C)Br | C3H5Br
reactant | carbonate | 103.5 g | C([O-])([O-])=O
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | 2,4-di-tert-amylphenylallylether | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)C=CCOCC=CC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC | C38H58O
